* AD8602 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 2.7/5V, CMOS, OP, Low Vos, RRIO, 2X
* Developed by: OEB / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (03/2000)
* Copyright 1999, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*			noninverting input
*			|	inverting input
*			|	|	 positive supply
*			|	|	 |	 negative supply
*			|	|	 |	 |	 output
*			|	|	 |	 |	 |
*			|	|	 |	 |	 |
.SUBCKT AD8602 		1       2       99      50      45
* 
* INPUT STAGE
*
M1  14  7  8  8 PIX L=1E-6 W=982E-6
M2  16  2  8  8 PIX L=1E-6 W=982E-6
M3  17  7 10 10 NIX L=1E-6 W=982E-6
M4  18  2 10 10 NIX L=1E-6 W=982E-6
RC5 14 50 4E+3
RC6 16 50 4E+3
RC7 99 17 4E+3
RC8 99 18 4E+3
C1  14 16 0.6E-12
C2  17 18 0.6E-12
I1  99  8 100E-6
I2  10 50 100E-6
V1  99  9 0.3
V2  13 50 0.3
D1   8  9 DX
D2  13 10 DX
EOS  7  1 POLY(3) (22,98) (73,98) (81,98) 300E-6 1 1 1
IOS  1  2 2.5E-12
*
* CMRR 90dB, ZERO AT 15kHz, POLE AT 2MHz
*
ECM1 21 98 POLY(2) (1,98) (2,98) 0 0.5 0.5
CCM1 21 22 3.54E-10
RCM1 21 22 30000
RCM2 22 98 1
*
* PSRR=100dB, ZERO AT 300Hz
*
EPSY 98 72 POLY(1) (99,50) 0 1
CPS3 72 73 5.30E-9
RPS3 72 73 100E+3
RPS4 73 98 1
*
*
* VOLTAGE NOISE REFERENCE OF 33nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 33
RN2 81 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 (99,50) 48E-6 
EVP  97 98 POLY(1) (99,50) -0.6 0.5
EVN  51 98 POLY(1) (50,99) 0.6 0.5
*
* GAIN STAGE
*
G1 98 30 POLY(2) (14,16) (17,18) 0 375E-6 375E-6
R1 30 98 2.53E+6
CF 45 30 50E-12
D3 30 97 DX
D4 51 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=1.6E-3
M6  45 47 50 50 NOX L=1E-6 W=3.33E-3
EG1 99 46 POLY(1) (98,30) 0.5216 1
EG2 47 50 POLY(1) (30,98) 0.4622 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.01,KF=2.5E-31,AF=1,TOX=100E-3)
.MODEL NIX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.01,KF=2.5E-31,AF=1,TOX=100E-3)
.MODEL DX D(IS=1E-14,RS=5)
.ENDS AD8602
*
*$




